US06677368B2
To the suspension of 4-(3,4-dimethoxy-phenyl)-1H-indole (14.7 g, 58 mmol) in t-BuOH:ethanol:acetic acid (367 mL:217 mL:113 mL) was added pyridinium tribromide (55.68 g, 174 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added more acetic acid (287 mL). Zinc dust (18.95 g, 290 mmol) was added to the reaction mixture portionwise. After stirring for one hour, water was added to the reaction. The unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with water (6×), sat. NaHCO3 (2×), brine (3×), dried over Na2SO4, concentrated and triturated with ether to give 10.14 g (65%) of 4-(3,4-dimethoxy-phenyl)-1,3-dihydro-indol-2-one as an earth colored solid.

reactant | 4-(3,4-dimethoxy-phenyl)-1H-indole | 58 mmol, 14.7 g | COC=1C=C(C=CC1OC)C1=C2C=CNC2=CC=C1 | C16H15NO2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 367 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 174 mmol, 55.68 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 287 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 290 mmol, 18.95 g | [Zn] | Zn
solvent | water | O | H2O
product | 4-(3,4-dimethoxy-phenyl)-1,3-dihydro-indol-2-one | 10.14 g, 65% | COC=1C=C(C=CC1OC)C1=C2CC(NC2=CC=C1)=O | C16H15NO3
